US07053060B2
To a suspension of 2-(4-ethylbenzyl)-5-hydroxyphenyl β-D-glucopyranoside (0.051 g) and cesium carbonate (0.13 g) in N,N-dimethylformamide (2 mL) was added ethyl 4-bromobutyrate (0.028 mL), and the mixture was stirred at 50° C. for 1 hour. The reaction mixture was cooled to ambient temperature, water was added to the reaction mixture, and the resulting mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by preparative thin layer chromatography on silica gel (eluent: dichloromethane/methanol=9/1) to give 5-[3-(ethoxycarbonyl)propyloxy]-2-(4-ethylbenzyl)phenyl β-D-glucopyranoside (0.028 g).

reactant | 2-(4-ethylbenzyl)-5-hydroxyphenyl β-D-glucopyranoside | 0.051 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC(=C1)O)CC1=CC=C(C=C1)CC | C21H26O7
reactant | cesium carbonate | 0.13 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 4-bromobutyrate | 0.028 mL | BrCCCC(=O)OCC | C6H11BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 5-[3-(ethoxycarbonyl)propyloxy]-2-(4-ethylbenzyl)phenyl β-D-glucopyranoside | 0.028 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC(=C1)OCCCC(=O)OCC)CC1=CC=C(C=C1)CC | C27H36O9
